US07989628B2
N2-(2-Trifluoromethoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=334.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-nitro-2-chloroquinoline and 2-(trifluoromethoxy)benzylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-(trifluoromethoxy)benzylamine | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
product | N2-(2-Trifluoromethoxy-benzyl)-quinoline-2,5-diamine | FC(OC1=C(CNC2=NC=3C=CC=C(C3C=C2)N)C=CC=C1)(F)F | C17H14F3N3O
